US06413995B1
Finally, 82 mg of 4-[1-hydroxy-2-(methoxycarbonyl)ethyl]cinnamic acid was dissolved in 37 μl 3-(aminomethyl)pyridine and 1 ml dimethylformamide, and then treated with 55 μl diethyl cyanophosphate and 50 μl triethylamine on ice for 1 hour to give methyl 3-hydroxy-3-[4-[2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl]propionate of interest (17 mg, 15%) as an amorphous solid.

reactant | 4-[1-hydroxy-2-(methoxycarbonyl)ethyl]cinnamic acid | 82 mg | OC(CC(=O)OC)C1=CC=C(C=CC(=O)O)C=C1 | C13H14O5
reactant | diethyl cyanophosphate | 55 μl | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 50 μl | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)pyridine | 37 μl | NCC=1C=NC=CC1 | C6H8N2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | methyl 3-hydroxy-3-[4-[2-[N-(3-pyridylmethyl)carbamoyl]ethenyl]phenyl]propionate | OC(CC(=O)OC)C1=CC=C(C=C1)C=CC(NCC=1C=NC=CC1)=O | C19H20N2O4
